2165-04-08 10:17:00 Physician Resident Progress Note
Chief Complaint: s/p VF arrest
   24 Hour Events:
 ARTERIAL LINE - START [**2165-4-8**] 04:37 AM
   - Please see admit note for details
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-4-8**] 05:59 AM
   Vancomycin - [**2165-4-8**] 06:00 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-8**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 73 (71 - 103) bpm
   BP: 151/77(99) {67/43(51) - 151/99(203)} mmHg
   RR: 20 (18 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
             Total In:
             2,865 mL
   PO:
             TF:
   IVF:
   2,865 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    135 mL
   Urine:
   135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   Compliance: 166.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.31/44/185/23/-4
   Ve: 16.2 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General: obese male, no acute distress, intubated and sedated
   HEENT: NC, AT, PERRL, no scleral icterus, JVP difficult to assess given
   obesity
   CV: RRR with no m/r/g
   Pulm: CTAB with no w/r/r although difficult exam given patient
s body
   habitus
   Abd: + BS, soft, nt, nd, morbidly obese
   Ext: trace LE edema
   Labs / Radiology
   302 K/uL
   15.2 g/dL
   130 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   18 mg/dL
   108 mEq/L
   139 mEq/L
   44.1 %
   18.1 K/uL
        [image002.jpg]
                             [**2165-4-8**]  04:25 AM
                             [**2165-4-8**]  04:33 AM
   WBC
   18.1
   Hct
   44.1
   Plt
   302
   Cr
   1.1
   TropT
   2.14
   TCO2
   23
   Glucose
   134
   130
   Other labs: PT / PTT / INR:14.4/21.7/1.2, CK / CKMB /
   Troponin-T:926/32/2.14, ALT / AST:62/64, Alk Phos / T Bili:57/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.3 mmol/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   - ECG sinus tachycardia, normal axis, intraventricular conduction delay
   in V1, no ST changes
   - Echo
 [**2165-4-8**]
 Preliminary evaluation
 RV dysfunction
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   1. s/p Arrest
   Etiology of his arrest is unclear and will be very difficult to assess
   given that he was unmonitored at the time of the event. Differential
   diagnosis includes pulmonary embolus given intraventricular conduction
   delay in lead V1, tachycardia, and hypoxia. Preliminary evaluation of
   echo appears to demonstrate RV dysfunction which would also be
   consistent for pulmonary embolus. Additional differential diagnosis
   includes ischemia, structural heart disease, and arrhythmia, although
   patient has no prior history of any of these abnormalities. An
   additional possibility includes a non-cardiac cause of hemodynamic
   instability resulting in a PEA arrest, although patient has no specific
   localizing symptoms or signs.
   - for evaluation of PE, will check CTA chest for evaluation of PE and
   coordinate CT head to evaluate for any intracranial bleed that would
   act as a contraindication to anticoagulation
   - follow-up fasting lipids in the AM
   - consider cardiac catheterization once more hemodynamically stable,
   although this seems less likely given that patient has minimmal other
   risk factors
   - follow-up echo read
   - consider EP consult in the AM and possible EPS once hemodynamically
   stable if no additional cause of VF arrest is found
   - continue cooling protocol via Arctic Sun
   - follow-up EEG and neuro recs per cardiac arrest protocol
   - replete electrolytes aggressively
   - follow-up blood and urine cultures
   2. Leukocytosis
   Etiology of his leukocytosis is most likely related to his Vfib arrest,
   although infection is also possible. Only localizing symptom at this
   time includes his UA that is suggestive of UTI, although no leuks or
   nitrates despite > 50 WBCs and bacteria.
   - resend UA and culture, treat with cipro if positive
   - follow-up blood cultures
   - follow-up CXR read
   3. Morbid Obesity
   Patient has morbid obesity and is currently undergoing outpatient
   evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure pending
   resolution of acute medical concerns
   4. Respiratory Failure
   Patient was intubated in the setting of cardiac arrest. Patient is on
   room air at baseline but does have a history of asthma and obstructive
   sleep apnea. No additional evidence of pneumonia or additional
   respiratory incident. ABG on current settings demonstrates adequate
   oxygenation but likely respiratory acidosis given slightly elevated
   PCO2.
   - continue to maintain intubation and sedation for adequate cooling
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2165-4-8**] 04:36 AM
   Arterial Line - [**2165-4-8**] 04:37 AM
   18 Gauge - [**2165-4-8**] 06:02 AM
   Comments: -will likely need to place central line given need for
   multiple drips and possible hypotension in the setting of the cooling
   protocol
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 399**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   DNR status discussed. Full code.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   Impression:  cardiopulmonary arrest in a 36-year old man with obesity
   and sleep apnea.  Diagnostic considerations are broad, but high on the
   list is pulmonary embolism and primary cardiac arrhythmia.  ACS is less
   likely given ECG, but is possible. Primary respiratory arrest is also a
   consideration.  Finally, this could have been a primary neurologic
   event given ?seizure, though the latter could have just been secondary
   to hypoxemia.
   Plan:
   1. Cooling protocol in progress
   2. Will interrupt #1 briefly to obtain head CT scan (r/o CNS bleed,
   structural brain abnormality, etc.)
   3. CTA chest to r/o PE
   4. Will decide on IV heparin after #2 and #3
   5. Echocardiogram to assess RV function in the meantime
   6. Repeat U/A
   7. Continuous EEG to r/o status epilepticus
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2165-4-8**] 11:04 ------
   Clinician:  Attending
   We attempted to perform head and chest CT scans today (see note above),
   but the patient is too large to fit on the scanner.  At this time, he
   is hemodynamically stable (mildly bradycardic [**2-11**] cooling), but his A-a
   gradient is very large and he is not ventilating well.
   At this time, I think that PE is much higher on the differential of his
   arrest than any structural brain abnormality.  I believe that he would
   be best served with IV infusion of heparin to treat presumed PE.  There
   is a small chance of intracranial hemorrhage with IV heparin if he has
   an underlying structural abnormality, but I don't think that's likely.
   I spoke to his [**First Name4 (NamePattern1) **] [**Name (NI) 6659**] (?sp), who is his HCP and made her aware
   of the situation and the risks.  She agreed that we should go forward
   with blood thinners "based on what we believe is going on".  She is
   aware of the potential risks.
   Total time spent:  60 minutes
   Patient is critically ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2165-4-8**] 17:16 ------

2165-04-09 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Unable to get CT head or CTA based on weight
   Cooling, with vecuronium drip
   Started heparin given TTE findings after wife said was ok even though
   did not get head CT first
   neuro came and did EEG monitoring->result pending
   Put in RIJ CVL
   Was bradycardic with cooling but also slightly hypotensive
   (high-80s/low 90s systolic), CVP 4, and UOP 15-30mL/Hr so got 1L NS
   over one hour X2
   U/A was positive->started Cipro
   Utox was negative except Benzos that we'd given him here
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-4-8**] 05:59 AM
   Vancomycin - [**2165-4-8**] 06:00 AM
   Ciprofloxacin - [**2165-4-8**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Midazolam (Versed) - 8 mg/hour
   Vecuronium - 0.05 mg/Kg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-8**] 09:00 AM
   Vecuronium - [**2165-4-8**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-9**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 53 (41 - 82) bpm
   BP: 111/67(81) {85/56(67) - 151/82(99)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 77 Inch
    CVP: 3 (3 - 5)mmHg
   Total In:
                                                                  6,124 mL
                                                                  1,006 mL
   PO:
   TF:
   IVF:
                                                                  6,124 mL
                                                                  1,007 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    450 mL
   Urine:
                                                                  1,150 mL
                                                                    350 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,874 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.33/40/90.[**Numeric Identifier 126**]/22/-4
   Ve: 12.3 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Gen:  Intubated, sedated
   HEENT: Intubated, RIJ in place
   CVS:  Distant heart sounds, no murmurs, bradycardia
   Resp:  Distant breath sounds BL
   ABD:  Soft, obese, NT, ND, +BS
   Neuro:  Sedated
   Labs / Radiology
   155 K/uL
   13.5 g/dL
   110 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.5 mEq/L
   14 mg/dL
   110 mEq/L
   138 mEq/L
   41.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2165-4-8**]  04:33 AM
                             [**2165-4-8**]  01:30 PM
                             [**2165-4-8**]  03:32 PM
                             [**2165-4-8**]  03:42 PM
                             [**2165-4-8**]  05:07 PM
                             [**2165-4-8**]  07:09 PM
                             [**2165-4-8**]  09:56 PM
                             [**2165-4-8**]  10:10 PM
                             [**2165-4-9**]  04:13 AM
                             [**2165-4-9**]  04:25 AM
   WBC
   11.7
   9.8
   Hct
   39.5
   41.0
   Plt
   177
   155
   Cr
   0.7
   0.8
   0.8
   TCO2
   23
   23
   24
   22
   19
   20
   22
   Glucose
   130
   109
   114
   110
   Other labs: PT / PTT / INR:15.4/62.1/1.4, CK / CKMB /
   Troponin-T:1765/63/2.14, ALT / AST:56/71, Alk Phos / T Bili:44/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:0.7 mmol/L, LDH:247 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Imaging: ECHO:  The left ventricle is not well seen. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is mildly
   depressed (LVEF= 45-50 %). The right ventricular cavity is mildly
   dilated with mild global free wall hypokinesis. The ascending aorta is
   mildly dilated. The number of aortic valve leaflets cannot be
   determined. There is no aortic valve stenosis. No aortic regurgitation
   is seen. The mitral valve leaflets are mildly thickened. There is no
   mitral valve prolapse. The pulmonary artery systolic pressure could not
   be determined. There is an anterior space which most likely represents
   a fat pad.
   IMPRESSION: poor technical quality due to patient's body habitus. Left
   ventricular function is mildly hypokinetic, a focal wall motion
   abnormality cannot be fully excluded. The right ventricle is not well
   seen but is probably mildly dilated/hypokinetic. No pathologic valvular
   abnormality seen. Pulmonary artery systolic pressure could not be
   determined.
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   1. s/p Arrest :  Unclear etiology.  Highest on the differential is PE
   given morbid obesity and sedentary lifestyle.  Additional differential
   diagnosis includes ischemia, which is not likely given no evidence on
   ECG, structural heart disease, and arrhythmia, although patient has no
   prior history of any of these abnormalities.  An additional possibility
   includes a non-cardiac cause of hemodynamic instability resulting in a
   PEA arrest, although patient has no specific localizing symptoms or
   signs.  Given patient's multiple medical problems including sleep
   apnea, asthma, and morbid obesity, a possible etiology of his arrest
   was arrest in the setting of hypoxia related to his
   obesity-hypoventilation, sleep apnea, and asthma, however less likely.
   ECG showed evidence of RSR
 IVCD and RV hypokinesis on ECHO yesterday
   consistent with possible PE.  Attempted to get a CTA to look for PE
   yesterday, however based on pts weight it was unable to be completed.
   - Artic Sun Cooling protocol with vecuronium, start rewarming today at
   1pm
   - Intubated, sedated
   - LENIs today
   - Treat with heparin empirically
   - replete electrolytes aggressively, checking electrolytes Q6H
   following rewarming
   - follow-up blood and urine cultures
   - Trend CK daily
   .
   2. Leukocytosis:   Etiology of his leukocytosis is most likely related
   to his Vfib arrest, although infection is also possible, given evidence
   of UTI on UA.  Trending down.
   - Treat with Cipro
   - follow-up blood cultures
   - follow-up CXR read
   .
   3. Morbid Obesity
   Patient has morbid obesity and is currently undergoing outpatient
   evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   .
   4. Respiratory Failure:  Patient was intubated in the setting of
   cardiac arrest ABG on current settings demonstrates adequate
   oxygenation but likely respiratory acidosis given slightly elevated
   PCO2.  No evidence of ARDS
   - continue to maintain intubation and sedation for adequate cooling
   .
   5. Transaminitis:  Improved
   ICU Care
   Nutrition: Follow and replete electrolytes. NPO for now. No IVF at
   present.
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-4-8**] 04:36 AM
   Arterial Line - [**2165-4-8**] 04:37 AM
   18 Gauge - [**2165-4-8**] 06:02 AM
   Multi Lumen - [**2165-4-8**] 04:30 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: [**Known lastname 6627**] cell - [**Telephone/Fax (1) 6628**], home [**Telephone/Fax (1) 6629**]
   Code status:  Full Code
   Disposition: pending
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 5077**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well.  Oxygenation better.  UOP and BP excellent.  His core body
   temp is around 33C
   Plan:
   1. LENIs to r/o DVT
   2. IV heparin
   3. Start rewarming
   4. Decrease intensity of NMB, allow for some shivering to rewarm
   5. Monitor for rewarming arrhythmia
   6. REassess neuro status
   7. F/u on EEG results
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2165-4-9**] 13:21 ------

2165-04-10 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Weaned vecuronium, warmed core temp. Pt became increasingly acidemic
   and hypoxemic, sedation (midazolam/fentanyl/propofol) was increased.
   -Weaned PEEP 15, FiO2 at 0.6 to improve hypoxia
   -EEG diffuse slowing, no foci of activity
   -lower extremity dopplers negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-4-8**] 05:59 AM
   Vancomycin - [**2165-4-8**] 06:00 AM
   Ciprofloxacin - [**2165-4-9**] 10:00 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-9**] 11:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-10**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 3
C (37.4
   Tcurrent: 3
C (37.4
   HR: 89 (48 - 104) bpm
   BP: 97/50(66) {97/44(64) - 177/77(106)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
    CVP: 5 (1 - 10)mmHg
   Total In:
                                                                  2,574 mL
                                                                    537 mL
   PO:
   TF:
   IVF:
                                                                  2,574 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    285 mL
   Urine:
                                                                  1,285 mL
                                                                    285 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,189 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.33/46/174/24/-1
   Ve: 15.6 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: morbidly obese male. intubated, sedated, and paralyzed.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB but limited exam due to body
   habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   194 K/uL
   12.1 g/dL
   100 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   35.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2165-4-9**]  04:25 AM
                             [**2165-4-9**]  12:31 PM
                             [**2165-4-9**]  03:09 PM
                             [**2165-4-9**]  04:34 PM
                             [**2165-4-9**]  09:49 PM
                             [**2165-4-9**]  11:13 PM
                             [**2165-4-9**]  11:35 PM
                             [**2165-4-10**]  01:15 AM
                             [**2165-4-10**]  04:14 AM
                             [**2165-4-10**]  04:37 AM
   WBC
   8.5
   11.3
   8.0
   Hct
   39.9
   37.4
   35.1
   Plt
   155
   199
   194
   Cr
   0.7
   0.9
   0.9
   TCO2
   22
   19
   21
   25
   24
   24
   25
   Glucose
   92
   104
   100
   Other labs: PT / PTT / INR:14.5/46.2/1.3, CK / CKMB /
   Troponin-T:821/63/2.14, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, LDH:247 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   # Cardiac Arrest :  Exact cause not clear, mainly [**2-11**] limitations in
   imaging provided by body size.  Highest on the differential is PE.  ECG
   showed evidence of RSR
 IVCD and RV hypokinesis on ECHO yesterday
   consistent with possible PE. Lenis negative yesterday.
   - heparin ggt for question of PE
   - Will check Ddimer from admit labs to see if negative would be able to
   stop hep gtt
   - trend CK daily
   .
   # Neurologic status: EEG with diffuse slowing. Currently sedated and
   thus unable to asses responsiveness. Will attempt weaning sedation
   today.
   - Artic Sun Cooling protocol completed. No arrythmias/seizures noted
   with re-warming
   - wean sedation today as below
   .
   # Respiratory Failure:  Currently on AC. Overnight hypoxia was a
   concern. Increased PEEP and FiO2.
   - Appears fluid overloaded on CXR this am. Will give lasix.
   - Will attempt weaning from sedation today (wean fentanyl and midazolam
   then attempt propofol) and reassess RISBI.
   - Have anesthesia consult prior to extubation to discuss prasodex
   during extubation and to have them present to re-intubate if necessary
   .
   # Bloody sputum: Possibly from ETT trauma vs pulmonary infarction
   # Leukocytosis:   Most likely in the setting of UTI on UA.  Trending
   down.
   - Treat with Cipro
   -  cultures: NGTD
   .
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   .
   # Transaminitis:  Improved
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2165-4-8**] 04:36 AM
   Arterial Line - [**2165-4-8**] 04:37 AM
   18 Gauge - [**2165-4-8**] 06:02 AM
   Multi Lumen - [**2165-4-8**] 04:30 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: In CCU until stable
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6668**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 80 minutes of critical care time.
   Additional comments:
   Doing better, opens eye to stimuli.
   Plan:
   1. Lighten sedation
   2. Anesthesia consultation for extubation - perhaps we could use
   short-acting GA agents
   3. Check D-dimer with initial labs, if (-), stop heparin, o/w continue
   IV UFH
   4. Family updated
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2165-4-10**] 11:15 ------

2165-04-11 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-10**]:
   - Weaned sedation to propofol only, patient awake following commands.
   However still hypoxic on CMV.
   - Heparin not therapeutic, increased sliding scale significantly
   - Consulted anesthesia regarding sedation, extubation techniques.
   Recommend propofol and fentanyl for sedation, but does not belive the
   patient is ready for extubation.  They will be present when we plan
   extubation.
   - D dimer positive
   - Improved oxygenation later in the day while on 10 PEEP, awake
   - Repleted mag and phos
   - Pt failed decreasing PEEP to 8 early this AM, became hypoxic to 80's,
   ABG showed PO2 at 72, changed back to 10
   - Pt has increased sputum production this AM, dark brown in color,
   micro shows GPCs from ET tube, but culture says oropharyngeal flora
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-10**] 08:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-10**] 09:00 AM
   Furosemide (Lasix) - [**2165-4-10**] 11:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-11**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 84 (69 - 102) bpm
   BP: 145/64(88) {98/54(70) - 162/79(100)} mmHg
   RR: 22 (0 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
    CVP: 16 (12 - 17)mmHg
   Total In:
                                                                  2,275 mL
                                                                    453 mL
   PO:
   TF:
   IVF:
                                                                  2,275 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  4,727 mL
                                                                    240 mL
   Urine:
                                                                  4,697 mL
                                                                    240 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,452 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.36/46/72/26/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Gen: morbidly obese male. Sedation was decreased and he appears
   responsive to comands.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB but limited exam due to body
   habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema, able to squize fingers and wiggle toes
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas
   Labs / Radiology
   204 K/uL
   12.2 g/dL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.6 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   35.3 %
   9.3 K/uL
                             [**2165-4-10**]  08:28 AM
                             [**2165-4-10**]  09:35 AM
                             [**2165-4-10**]  12:00 PM
                             [**2165-4-10**]  02:52 PM
                             [**2165-4-10**]  04:28 PM
                             [**2165-4-10**]  04:33 PM
                             [**2165-4-10**]  06:30 PM
                             [**2165-4-11**]  12:54 AM
                             [**2165-4-11**]  04:51 AM
                             [**2165-4-11**]  05:07 AM
   WBC
   9.3
   Hct
   35.3
   Plt
   204
   Cr
   1.0
   0.9
   TCO2
   25
   25
   25
   28
   25
   26
   27
   Glucose
   91
   110
   102
   Other labs: PT / PTT / INR:14.8/76.2/1.3, CK / CKMB /
   Troponin-T:943/63/2.14, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   # Cardiac Arrest :  Most likely PE.
   - heparin ggt
   - trend CK daily (~ 900 today, down from 17k)
   # Neurologic status: EEG with diffuse slowing. Currently sedated and
   thus unable to asses responsiveness. Responsiveness improves with
   weaning sedation.
   - Artic Sun Cooling protocol completed. No seizures overnight
   # Respiratory Failure:  Currently on AC. Overnight hypoxia was a
   concern. Increased PEEP and FiO2.
   - CXR with signs of fluid overload. -2.5 lt yesterday. Will continue
   lasix (-1-1.5 lt goal).
   - Wean attempt: pt responsive to commands but hypoxic. Now on P/S [**10-16**].
   Continue to wean sedation and if more alert then d/c vent.
   # Bloody sputum: Most likely ETT trauma and setting of anticoagulation.
   Sputum gr st most likely contamination. Cx pnd. No fever, leukocytosis
   to suggest infection. Will monitor.
   # Leukocytosis:   Most likely in the setting of UTI on UA.  Trending
   down.
   - Continue Cipro
   -  cultures: NGTD
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   # Transaminitis:  Improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-8**] 04:37 AM
   Multi Lumen - [**2165-4-8**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 90 minutes of critical care time.
   Additional comments:
   Relative hypoxemia persists, but A-a has improved.  Ventilation is OK.
   PTT therapeutic.  Other lab parameters are stable.
   Plan:
   1. Attempt extubation with anesthesia standby - call Dr. [**First Name (STitle) 6724**] to
   assist
   2. Continue IV UFH
   3. Off sedation
   4. Family updated
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2165-4-11**] 11:05 ------

2165-04-12 05:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Anesthesia wanted to wait one more day for sedation to wear off
   before trying to extubate again. Will do in am once patient in chair.
   PT to help with getting pt in chair.
   - Diuresed 3L after lasix
   - Started tube feeds overnight but d/c'd before extubation in am.
   - Oxygenation trended down on 7 PEEP. Put back on 10 with better O2.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-11**] 08:00 PM
   Infusions:
   Heparin Sodium - 3,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-4-11**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-12**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 66 (66 - 94) bpm
   BP: 106/62(75) {99/56(68) - 182/92(119)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
    CVP: 18 (8 - 18)mmHg
   Total In:
                                                                  2,334 mL
                                                                    486 mL
   PO:
   TF:
   IVF:
                                                                  2,334 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                    450 mL
   Urine:
                                                                  4,020 mL
                                                                    450 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,726 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 28
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.40/42/86.[**Numeric Identifier 143**]/27/0
   Ve: 13 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: morbidly obese male. Sedation was decreased and he appears
   responsive to comands.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB but limited exam due to body
   habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema, able to squize fingers and wiggle toes
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas
   Labs / Radiology
   199 K/uL
   11.7 g/dL
   102 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.3 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   33.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2165-4-10**]  06:30 PM
                             [**2165-4-11**]  12:54 AM
                             [**2165-4-11**]  04:51 AM
                             [**2165-4-11**]  05:07 AM
                             [**2165-4-11**]  09:04 AM
                             [**2165-4-11**]  04:11 PM
                             [**2165-4-11**]  04:26 PM
                             [**2165-4-12**]  01:52 AM
                             [**2165-4-12**]  02:13 AM
                             [**2165-4-12**]  04:01 AM
   WBC
   9.3
   8.1
   Hct
   35.3
   33.6
   Plt
   204
   199
   Cr
   0.9
   0.9
   0.8
   TropT
   0.46
   TCO2
   25
   26
   27
   23
   30
   29
   27
   Glucose
   102
   111
   112
   102
   Other labs: PT / PTT / INR:14.8/63.9/1.3, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   IMAGING:
   CXR:
   No overhydration. Ascites versus subpulmonic effusion on the
   right. Small left pleural effusion and retrocardiac atelectasis.
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - heparin gtt
   - CK was trending down yesterday, no longer following
   .
   # Neurologic status: EEG showed diffuse slowing while on sedation,
   however pt is responsive when sedation is weaned.
   - Artic Sun Cooling protocol completed.
   - Discontinue all sedating medications in an attempt to wean off vent
   .
   # Respiratory Failure:  Currently on AC. Overnight hypoxia was a
   concern. Increased PEEP and FiO2.
   - CXR had signs of fluid overload, diuresed for two days, negative 4L
   over past two days.
   - Wean attempt: pt responsive to commands but hypoxic. Now on P/S [**10-16**].
   Continue to wean sedation and if more alert then attempt to d/c vent.
   .
   # Bloody sputum: Most likely ETT trauma and setting of anticoagulation.
   Sputum gr st most likely contamination.  Afebrile.  leukocytosis to
   suggest infection. Will monitor.
   - F/u Cultures
   .
   # Leukocytosis:   Most likely in the setting of UTI on UA.  Trending
   down.
   - Continue Cipro, for total of 10 days
   -  cultures: NGTD
   .
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   .
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-8**] 04:37 AM
   Multi Lumen - [**2165-4-8**] 04:30 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Reviewed data and  presentation of Dr.[**Last Name (STitle) 5077**] . Agree with data.Would
   aggressively aim to extubate Pt today.
   Spent 30 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2165-4-13**] 12:14 ------

2165-04-13 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   D/c'd propofol, pt responsive. Extubated at ~12:30pm with anesthesia at
   the bedside. Initiated CPAP imediately following extubation.
   - CPAP D/C'd, gave Nebulizers with maintained SaO2 in the low 90s.
   - Hydralazine 10mg IV x1 given for BP 190/100 range.
   - Metoprolol 10mg IV x2 given for persistent Hypertension. -
   nitroprusside ggt, bp<150
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-12**] 11:01 PM
   Infusions:
   Nitroprusside - 0.3 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2165-4-12**] 02:45 PM
   Metoprolol - [**2165-4-12**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-13**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 87 (58 - 102) bpm
   BP: 141/62(87) {102/44(72) - 203/102(129)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
    CVP: 15 (9 - 22)mmHg
   Total In:
                                                                  2,415 mL
                                                                     82 mL
   PO:
   TF:
   IVF:
                                                                  2,355 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                      0 mL
   Urine:
                                                                  2,630 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (424 - 780) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.44/41/95.[**Numeric Identifier 143**]/24/3
   Ve: 18 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Gen: morbidly obese male. Extubated, responds to commands, alert,
   oriented to year and hospital.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB but limited exam due to body
   habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   230 K/uL
   11.9 g/dL
   122 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   13 mg/dL
   108 mEq/L
   140 mEq/L
   33.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2165-4-11**]  09:04 AM
                             [**2165-4-11**]  04:11 PM
                             [**2165-4-11**]  04:26 PM
                             [**2165-4-12**]  01:52 AM
                             [**2165-4-12**]  02:13 AM
                             [**2165-4-12**]  04:01 AM
                             [**2165-4-12**]  08:36 AM
                             [**2165-4-12**]  05:05 PM
                             [**2165-4-13**]  01:06 AM
                             [**2165-4-13**]  01:34 AM
   WBC
   8.1
   10.9
   Hct
   33.6
   33.5
   Plt
   199
   230
   Cr
   0.9
   0.8
   0.7
   TCO2
   23
   30
   29
   27
   29
   27
   29
   Glucose
   111
   112
   102
   122
   Other labs: PT / PTT / INR:15.2/71.4/1.3, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:8.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - heparin gtt
   - CK was trending down yesterday, no longer following
   .
   # Neurologic status: EEG showed diffuse slowing while on sedation,
   however pt is responsive when sedation is weaned.
   - Artic Sun Cooling protocol completed.
   - Discontinue all sedating medications in an attempt to wean off vent
   .
   # Respiratory Failure:  Currently on AC. Overnight hypoxia was a
   concern. Increased PEEP and FiO2.
   - CXR had signs of fluid overload, diuresed for two days, negative 4L
   over past two days.
   - Wean attempt: pt responsive to commands but hypoxic. Now on P/S [**10-16**].
   Continue to wean sedation and if more alert then attempt to d/c vent.
   .
   # Bloody sputum: Most likely ETT trauma and setting of anticoagulation.
   Sputum gr st most likely contamination.  Afebrile.  leukocytosis to
   suggest infection. Will monitor.
   - F/u Cultures
   .
   # Leukocytosis:   Most likely in the setting of UTI on UA.  Trending
   down.
   - Continue Cipro, for total of 10 days
   -  cultures: NGTD
   .
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-04-14 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2165-4-13**]:
   - Started captopril and spironolactone in attempt to wean nitroprusside
   drip.
   - Started coumadin
   - Primary care physician came by to see the patient
   - Has some amnesia regarding the event
   - PT to see the patient
   - Increased captopril to 50mg TID as pressure not controlled especially
   when awake and anxious
   - Pt required non-invasive ventilation overnight
   - Has many thick secrections
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-13**] 09:04 AM
   Infusions:
   Nitroprusside - 0.5 mcg/Kg/min
   Heparin Sodium - 3,400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-13**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-14**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 87 (80 - 102) bpm
   BP: 150/60(84) {126/60(84) - 192/92(120)} mmHg
   RR: 27 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  2,726 mL
                                                                    635 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,766 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    560 mL
   Urine:
                                                                  3,040 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -314 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 960 (730 - 960) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 27 L/min
   Physical Examination
   Gen: morbidly obese male. Extubated, responds to commands, alert,
   oriented to year and hospital.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: Resp were unlabored, no accessory muscle use. CTAB but limited
   exam due to body habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   237 K/uL
   12.0 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   13 mg/dL
   108 mEq/L
   143 mEq/L
   35.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2165-4-11**]  04:11 PM
                             [**2165-4-11**]  04:26 PM
                             [**2165-4-12**]  01:52 AM
                             [**2165-4-12**]  02:13 AM
                             [**2165-4-12**]  04:01 AM
                             [**2165-4-12**]  08:36 AM
                             [**2165-4-12**]  05:05 PM
                             [**2165-4-13**]  01:06 AM
                             [**2165-4-13**]  01:34 AM
                             [**2165-4-14**]  02:12 AM
   WBC
   8.1
   10.9
   9.9
   Hct
   33.6
   33.5
   35.3
   Plt
   199
   230
   237
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   30
   29
   27
   29
   27
   29
   Glucose
   111
   112
   102
   122
   113
   Other labs: PT / PTT / INR:15.6/74.6/1.4, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - continue heparin gtt until
   - continue warfarin, increase rate today to 10mg
   # HTN: as high as 200
s. Nitroprusside ggt SBP<150. Will attempt again
   today to wean off nitro.
   - captopril increase to 75mg TID, increase through the course of the
   day to 100mg
   - increase spironolactone ot 50mg [**Hospital1 7**]
   # Neurologic status: Improved after weaning sedation although still
   some anterograde amnesia which is contributing to his anxiety.
   # Respiratory Failure:
   - Extubated, doing well
   - nebulizers
   - CPAP at night, NC or NRB during day time
   # UTI:
   - Continue Cipro, for total of 10 days (last dose [**2165-4-17**])
   -  cultures: NGTD
   .
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   - PT consulted
   ICU Care
   Nutrition: Restarted diet, advance as tolerated
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-12**] 06:11 PM
   Multi Lumen - [**2165-4-12**] 06:14 PM
   Prophylaxis:
   DVT: hep gtt/warfarin
   Stress ulcer: PPI daily
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU while on nitro
   ------ Protected Section ------
   I reviewed overnight course data and examined Pt. Agree with
   Dr.[**Last Name (STitle) 5077**]
s notes and plan of treatment.
   Spent 30 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2165-4-14**] 12:51 ------

2165-04-15 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BPs still high after 75mg captopril so increased to 100 for night
   time dose and was unable to wean nitroprusside so up to 150mg TID
   - O2sats a little lower in pm (88-92) despite IS, coughing, face mask,
   sitting up, so ordered CXR which showed no change and sats came up on
   their own.
   - Had pain on urethral meatus with a little bit of irritation visible.
   Pulled foley catheter.
   - Overnight woke up very agitated from bad dream. Pulled off CPAP and
   pulled out RIJ. No significant bleeding. Got Zyprexa and went back to
   sleep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-13**] 09:04 AM
   Infusions:
   Nitroprusside - 0.8 mcg/Kg/min
   Heparin Sodium - 3,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-15**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 99 (67 - 107) bpm
   BP: 134/71(91) {126/50(77) - 173/96(109)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 77 Inch
             Total In:
                                                                  3,179 mL
                                                                    457 mL
   PO:
                                                                  1,640 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  4,985 mL
                                                                      0 mL
   Urine:
                                                                  4,985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,806 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.42/42/81.[**Numeric Identifier 218**]/28/2
   Ve: 15.2 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: morbidly obese male. Extubated, responds to commands, alert,
   oriented to year and hospital.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: Resp were unlabored, no accessory muscle use. CTAB but limited
   exam due to body habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   261 K/uL
   12.0 g/dL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   108 mEq/L
   142 mEq/L
   36.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2165-4-12**]  01:52 AM
                             [**2165-4-12**]  02:13 AM
                             [**2165-4-12**]  04:01 AM
                             [**2165-4-12**]  08:36 AM
                             [**2165-4-12**]  05:05 PM
                             [**2165-4-13**]  01:06 AM
                             [**2165-4-13**]  01:34 AM
                             [**2165-4-14**]  02:12 AM
                             [**2165-4-15**]  03:42 AM
                             [**2165-4-15**]  03:50 AM
   WBC
   8.1
   10.9
   9.9
   11.4
   Hct
   33.6
   33.5
   35.3
   36.3
   Plt
   199
   230
   237
   261
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   29
   27
   29
   27
   29
   28
   Glucose
   112
   102
   122
   113
   105
   Other labs: PT / PTT / INR:16.5/65.0/1.5, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   .
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - continue heparin gtt until
   - continue warfarin, increase rate today to 10mg
   # HTN: as high as 200
s. Nitroprusside ggt SBP<150. Will attempt again
   today to wean off nitro.
   - captopril increase to 75mg TID, increase through the course of the
   day to 100mg
   - increase spironolactone ot 50mg [**Hospital1 7**]
   # Neurologic status: Improved after weaning sedation although still
   some anterograde amnesia which is contributing to his anxiety.
   # Respiratory Failure:
   - Extubated, doing well
   - nebulizers
   - CPAP at night, NC or NRB during day time
   # UTI:
   - Continue Cipro, for total of 10 days (last dose [**2165-4-17**])
   -  cultures: NGTD
   .
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   - PT consulted
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-12**] 06:11 PM
   18 Gauge - [**2165-4-15**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-04-16 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hypertension: Started amlodipine 10mg daily (plus captopril 150mg
   TID, spironolactone 50mg [**Hospital1 7**]) and d/c'd nitroprusside at 12pm. 130s/50s
   - 150s/60s for most of the afternoon. Increased amlodipine to 10mg [**Hospital1 7**].
   - Respiratory: Pt's SaO2 stable on NC O2. Experienced a couple of
   coughing fits over night and developed [**Hospital1 **]-basilar rales. Give Lasix
   40mg IV.
   - PT got pt out of bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-13**] 09:04 AM
   Infusions:
   Heparin Sodium - 3,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-4-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-16**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 78 (78 - 103) bpm
   BP: 150/73(94) {121/53(80) - 171/144(147)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
             Total In:
                                                                  3,134 mL
                                                                    219 mL
   PO:
                                                                  1,980 mL
             TF:
   IVF:
                                                                  1,154 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  5,700 mL
                                                                    500 mL
   Urine:
                                                                  5,700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,566 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: 7.43/39/82.[**Numeric Identifier 143**]//1
   Physical Examination
   Gen: morbidly obese male. Extubated, responds to commands, alert,
   oriented to year and hospital.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: Resp were unlabored, no accessory muscle use. CTAB but limited
   exam due to body habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   261 K/uL
   12.0 g/dL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   108 mEq/L
   142 mEq/L
   36.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2165-4-12**]  02:13 AM
                             [**2165-4-12**]  04:01 AM
                             [**2165-4-12**]  08:36 AM
                             [**2165-4-12**]  05:05 PM
                             [**2165-4-13**]  01:06 AM
                             [**2165-4-13**]  01:34 AM
                             [**2165-4-14**]  02:12 AM
                             [**2165-4-15**]  03:42 AM
                             [**2165-4-15**]  03:50 AM
                             [**2165-4-15**]  11:25 PM
   WBC
   10.9
   9.9
   11.4
   Hct
   33.5
   35.3
   36.3
   Plt
   230
   237
   261
   Cr
   0.7
   0.7
   0.8
   TCO2
   29
   27
   29
   27
   29
   28
   27
   Glucose
   102
   122
   113
   105
   Other labs: PT / PTT / INR:16.5/65.0/1.5, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - continue heparin gtt until
   - continue warfarin bridge for 2 days INR>2
   # HTN: improvement is noted. Currently on spironolactone, thus cannot
   eval for 1o or 2o hyperaldosteronism. Random cortisol sent and pnd.
   This morning his BP is low with standing. Will monitor and hold
   amlodipine morning dose. If BP remains low the dc amlodipine and
   decrease captopril for SBP100-120.
   - off nitroprusside
   # Neurologic status: Improved after weaning sedation although still
   some anterograde amnesia which is contributing to his anxiety.
   # Respiratory Failure:
   - Extubated, doing well
   - nebulizers
   - CPAP at night, NC or NRB during day time
   # UTI:
   - Continue Cipro, for total of 10 days (last dose [**2165-4-17**])
   -  cultures: NGTD
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   - PT consulted
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-12**] 06:11 PM
   18 Gauge - [**2165-4-15**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I reviewed the overnight course and issues.
   Overall much improved.Needs adjustment of meds and agitation resolved.
   Spent 40 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2165-4-16**] 13:11 ------

2165-04-17 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2165-4-16**]:
   - Decreased coumadin to 5mg
   - Neuro consulted for confusion, pts mental status much improved, Neuro
   will see in the AM
   - Negative 800cc at 4pm
   - BPs back up to 130s to 140s by 4pm, decreased captopril to 100mg TID,
   and give amlodipine 10mg QHS
   - [**Male First Name (un) **] and renin pending
   - D/C'ed A line
   - Pt having dry cough at night, feels as though his throat is
   irritated.  Switched inhalers back to home regimen for asthma.  Pt
   already on pantoprazole for GERD.  Guaifenesin for symptomatic relief.
   - IV lasix 40mg at 2100 for positive fluid balance
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-4-16**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-17**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 90 (79 - 103) bpm
   BP: 140/61(78) {92/46(56) - 150/112(132)} mmHg
   RR: 30 (15 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
             Total In:
                                                                  2,549 mL
                                                                     94 mL
   PO:
                                                                  1,860 mL
             TF:
   IVF:
                                                                    689 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                  1,600 mL
   Urine:
                                                                  3,500 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -951 mL
                                                                 -1,506 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   Gen: morbidly obese male. Extubated, responds to commands, alert,
   oriented to year and hospital.
   HEENT: NCAT. Sclera anicteric. pupils equally round and minimally
   reactive to light bilaterally. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple but could not assess JVP due to body habitus.
   CV: Normal S1/S2 with regular rate and rhythm; murmurs could not be
   appreciated
   Chest: Resp were unlabored, no accessory muscle use. CTAB but limited
   exam due to body habitus
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c/e. trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   301 K/uL
   13.3 g/dL
   96 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   19 mg/dL
   107 mEq/L
   143 mEq/L
   38.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2165-4-12**]  04:01 AM
                             [**2165-4-12**]  08:36 AM
                             [**2165-4-12**]  05:05 PM
                             [**2165-4-13**]  01:06 AM
                             [**2165-4-13**]  01:34 AM
                             [**2165-4-14**]  02:12 AM
                             [**2165-4-15**]  03:42 AM
                             [**2165-4-15**]  03:50 AM
                             [**2165-4-15**]  11:25 PM
                             [**2165-4-16**]  06:46 AM
   WBC
   10.9
   9.9
   11.4
   12.2
   Hct
   33.5
   35.3
   36.3
   38.8
   Plt
   230
   237
   261
   301
   Cr
   0.7
   0.7
   0.8
   0.9
   TCO2
   27
   29
   27
   29
   28
   27
   Glucose
   122
   113
   105
   96
   Other labs: PT / PTT / INR:23.2/74.0/2.2, CK / CKMB /
   Troponin-T:943/6/0.46, ALT / AST:49/52, Alk Phos / T Bili:42/0.4,
   Differential-Neuts:90.7 %, Lymph:5.2 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:1408 ng/mL, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:9.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36yo male with morbid obesity was admitted s/p cardiac arrest at home.
   Respiratory status stabilized.
   # Cardiac Arrest :  Most likely secondary to PE causing primary
   respiratory arrest.
   - heparin gtt, consider d/c today if therapeutic INR
   - warfarin 5mg daily
   # HTN: improvement is noted. Currently on spironolactone, thus cannot
   evaluate effectively for 1o or 2o hyperaldosteronism. Random cortisol
   sent and mildly elevated at 20. Goal SBP100-120.
   - off nitroprusside
   - cont. captopril 100mg TID, amlodipine 10mg daily, spironolactone 50mg
   [**Hospital1 7**]
   - will transition to lisinopril
   # Neurologic status: Improved after weaning sedation although still
   some anterograde amnesia which is contributing to his anxiety.
   - Neuro to see Pt today
   # Respiratory Failure: Pt
s SaO2 stable on room air/NC O2. Develops dry
   cough and respiratory crackles at night for the last two nights,
   responds well to Lasix 40mg IV and nebulizers. Likely a combination of
   CHF and bronchospasm.
   - Extubated, doing well
   - nebulizers per home regimen
   - CPAP at night, NC or NRB during day time
   # UTI:
   - D/c Cipro, total of 10 days completed. Foley d/c
d over weekend
   -  cultures: NGTD
   # Morbid Obesity: Patient has morbid obesity and is currently
   undergoing outpatient evaluation for gastric bypass.
   - continue outpatient evaluation for gastric bypass procedure
   - PT consulted
   # FEN: Regular diet
   # Prophy: Heparing -- > Coumadin, bowel regimen
   # Dispo: To floor if continues to be stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-4-15**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Reviewed data,overnight stable, and examined Pt.
   Significantly improved. Awaiting Neuro evaluation.
   Plan to transfer pt to [**Hospital1 **] and start Physical Therapy. Initiate  plans
   to send Pt home.
   Spent 45 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2165-4-17**] 13:10 ------